US09334265B2
Intermediate 109: 1-[(2-methyl-1,3-thiazol-4-yl)methyl]-1H-indazol-3-amine
A solution of 1H-indazol-3-amine (ABCR, 700 mg, 5.26 mmol) in anhydrous DMSO (10 ml) was added to a suspension of potassium hydroxide (PANREAC, 737 mg, 13.14 mmol) in anhydrous DMSO (40 mL) and this mixture was stirred for 10 min. A solution of 4-(chloromethyl)-2-methyl-1,3-thiazole hydrochloride (BUTTPARK, 776 mg, 5.26 mmol) and sodium hydride (ALDRICH, 126 mg, 5.26 mmol) in anhydrous DMSO (10 mL) was added dropwise to the mixture. Reaction was stirred at room temperature for 32 hours. Mixture of reaction was poured into water (100 mL) and extracted using DCM (4×100 mL). The combined organics were washed with water:brine (1:1) (100 mL) and dried over MgSO4 (anh), filtered and concentrated to dryness. Residue was purified using silica chromatography column using a linear gradient of DCM/MeOH (0%->5%) as eluents to give the title compound 1-[(2-methyl-1,3-thiazol-4-yl)methyl]-1H-indazol-3-amine (988 mg, 4.04 mmol, 77% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm: 7.67-7.69 (m, 1H), 7.40-7.43 (m, 1H), 7.23-7.28 (m, 1H), 7.07 (s, 1H), 6.90-6.90 (m, 1H), 5.46 (br s, 2H), 5.31 (s, 2H), 2.57 (s, 3H). [ES+MS] m/z 245 (MH+).

reactant | 1H-indazol-3-amine | 5.26 mmol, 700 mg | N1N=C(C2=CC=CC=C12)N | C7H7N3
reactant | potassium hydroxide | 13.14 mmol, 737 mg | [OH-].[K+]
reactant | 4-(chloromethyl)-2-methyl-1,3-thiazole hydrochloride | 5.26 mmol, 776 mg | Cl.ClCC=1N=C(SC1)C
reactant | sodium hydride | 5.26 mmol, 126 mg | [H-].[Na+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 1-[(2-methyl-1,3-thiazol-4-yl)methyl]-1H-indazol-3-amine | 4.04 mmol, 988 mg, 77% yield | CC=1SC=C(N1)CN1N=C(C2=CC=CC=C12)N | C12H12N4S
